US07053088B2
(2-Methylaminoquinolin-7-yl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine dihydrochloride.
(2-Chloroquinolin-7-yl)-[6-(4-trifluoromethyl-phenyl)pyrimidin-4-yl]amine, Example 13(b), (100 mg, 0.25 mmol) was dissolved in satd methylamine in EtOH [2 mL, prepared by bubbling methylamine (Aldrich) into EtOH at 0° C.]. The solution was heated in a microwave at 160° C. for 20 min. Additional satd methylamine in EtOH (2 mL) was added and the reaction mixture was heated again in a microwave at 160° C. for 20 min. The mixture was concentrated in vacuo, redissolved in satd methylamine in EtOH (2 mL), and heated for an additional 20 min at 160° C. The mixture was concentrated in vacuo and the residue suspended in 1 N HCl (20 mL) and EtOAc (50 mL). The suspension was shaken vigorously and the solid collected by filtration, washed with water (20 mL), EtOAc (20 mL), hexane (20 mL) and air-dried. The solid was dissolved in MeOH, and concentrated in vacuo to provide the title product as a yellow amorphous solid. MS (ESI, pos. ion) m/z: 396 (M+1).

reactant | (2-Chloroquinolin-7-yl)-[6-(4-trifluoromethyl-phenyl)pyrimidin-4-yl]amine | ClC1=NC2=CC(=CC=C2C=C1)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C20H12ClF3N4
reactant | methylamine | CN | CH5N
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | EtOH | 2 mL | CCO | C2H6O
product | (2-Methylaminoquinolin-7-yl)-[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amine dihydrochloride | Cl.Cl.CNC1=NC2=CC(=CC=C2C=C1)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C21H16F3N5.2ClH/c1-25-19-9-5-14-4-8-16(10-18(14)29-19)28-20-11-17(26-12-27-20)13-2-6-15(7-3-13)21(22,23)24;;/h2-12H,1H3,(H,25,29)(H,26,27,28);2*1H
